US03962317
Preparation of N,N'-dicarbobenzoxy-D-ornithine
A solution of D-ornithine monohydrochloride in 60 ml. of 2N sodium hydroxide was cooled to 5°C. Carbobenzoxy chloride (20.4 g.) and 2N sodium hydroxide (64 ml.) were added in four equal portions over 1.0 hour with stirring. The mixture was stirred for an additional 0.5 hour in the cold, then extracted with diethyl ether. The aqueous portion was chilled and acidified (25 ml. 6N hydrochloric acid) and the resulting oil was extracted into ether containing some ethyl acetate. The organic phase was extracted with water, then saturated salt solution and dried (MgSO4). Evaporation of the solvent gave an oil which crystallized from ether to afford 18.8 gms. of product, m.p. 110.5°-113°C.

reactant | D-ornithine monohydrochloride | Cl.N[C@H](CCCN)C(=O)O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | Carbobenzoxy chloride | 20.4 g | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
reactant | sodium hydroxide | 2N, 64 ml | [OH-].[Na+]
product | N,N'-dicarbobenzoxy-D-ornithine | C(=O)(OCC1=CC=CC=C1)N[C@H](CCCNC(=O)OCC1=CC=CC=C1)C(=O)O | C21H24N2O6
